US06215016B1
In 200 mL of methanol, was dissolved 8.90 g (75.4 mmol) of monomethyl malonate, and the resulting solution was mixed with 4.30 g (37.5 mmol) of magnesium ethoxide, followed by stirring for 4 hours at room temperature. The reaction solution was concentrated and the residue was dried under reduced pressure. In 150 mL of tetrahydrofuran, was dissolved 4.80 g (37.5 mmol) of 2-thiophenecarboxylic acid and the resulting solution was mixed with 6.69 g (41.2 mmol) of carbonyldiimidazole, followed by stirring for 1 hour. The reaction solution was added to a dry magnesium salt and stirred at room temperature for 21 hours. The reaction solution was concentrated; the residue was mixed with 150 mL of 1.5 N hydrochloric acid, extracted with ethyl acetate, and washed with an aqueous sodium hydrogencarbonate solution and then saturated sodium chloride water. The resultant was dried over sodium sulfate anhydride, filtered, and concentrated. The residue was distilled (0.06 mmHg, 87) to give 5.95 g (32.3 mmol, 86.1%) of methyl 2-thiophenecarbonylacetate as an anhydrous liquid. Similarly to Example 133, 2.52 g (8.28 mmol, 81.2%) of yellow crystals were obtained from 5.95 g (32.2 mmol) of methyl 2-thiophenecarbonylacetate by recrystallization from methanol.

reactant | monomethyl malonate | 75.4 mmol, 8.90 g | C(CC(=O)[O-])(=O)OC
reactant | magnesium ethoxide | 37.5 mmol, 4.30 g | [O-]CC.[Mg+2].[O-]CC
reactant | 2-thiophenecarboxylic acid | 37.5 mmol, 4.80 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | carbonyldiimidazole | 41.2 mmol, 6.69 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methanol | 200 mL | CO | CH4O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | methyl 2-thiophenecarbonylacetate | 32.3 mmol, 5.95 g, 86.1% | S1C(=CC=C1)C(=O)CC(=O)OC | C8H8O3S
